US08466150B2
4-(dimethylamino)-N-methoxy-N-methyl-3-nitrobenzamide
To a solution of 4-fluoro-3-nitrobenzoic acid (5 g, 27.0 mmol) in dimethylformamide (100 mL) was added N,O-dimethylhydroxylamine hydrochloride (5.93 g, 60.8 mmol) and triethylamine (17.0 mL, 122 mmol). 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (11.65 g, 60.8 mmol) and hydroxybenzotriazole (9.31 g, 60.8 mmol) were added and the reaction mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated and partitioned between ethyl acetate (150 mL) and brine (150 mL). The organics were concentrated on rotary evaporator and the crude was purified by flash chromatography eluting with 40% ethyl acetate in hexanes to provide the title product. MS (DCI/NH3) m/z 254 (M+H)+.

reactant | 4-fluoro-3-nitrobenzoic acid | 27.0 mmol, 5 g | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 60.8 mmol, 5.93 g | Cl.CNOC
reactant | triethylamine | 122 mmol, 17.0 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 60.8 mmol, 11.65 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole | 60.8 mmol, 9.31 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-(dimethylamino)-N-methoxy-N-methyl-3-nitrobenzamide | CN(C1=C(C=C(C(=O)N(C)OC)C=C1)[N+](=O)[O-])C | C11H15N3O4
